US08193199B2
Dissolved 2-fluoroaniline (2.0 mL, 20.8 mmol, 1.05 eq) in 40 mL of anhydrous ether. Added Magnesium Sulfate (7146 mg, 59.3 mmol, 4 eq), 7 g of powdered mol sieves, and benzaldehyde (2.0 mL μl, 19.8 mmol). To this mixture was added pTsOH (18.8 mg, 98.9 jμmol, 0.005 eq) and heated to reflux overnight. The reaction was cooled, filtered and concentrated to yield (E)-N-benzylidene-2-fluorobenzenamine. 1H NMR (400 MHz, CDCl3) δ ppm 8.55 (s, 1H), 7.95 (m, 2H), 7.52 (m, 5H), 7.18 (m, 4H).

reactant | 2-fluoroaniline | 20.8 mmol, 2.0 mL, 1.05 eq | FC1=C(N)C=CC=C1 | C6H6FN
reactant | Magnesium Sulfate | 59.3 mmol, 7146 mg, 4 eq | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | pTsOH | 18.8 mg, 0.005 eq | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | ether | 40 mL | CCOCC | C4H10O
product | (E)-N-benzylidene-2-fluorobenzenamine | C(/C1=CC=CC=C1)=N\C1=C(C=CC=C1)F | C13H10FN
